US07812022B2
Step G: 2,6-Difluoro-N-{2-(methyloxy)-5-[3-(2-{[2-(trifluoroacetyl)-1,2,3,4-tetrahydro-7-isoquinolinyl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}benzamide
To a solution of N-[5-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]-2-(methyloxy)phenyl]-2,6-difluorobenzamide (158 mg, 0.32 mmol) in 1,4-dioxane (6 mL) and 2-propanol (2 mL) was added 7-amino-N-trifluoroacetyl tetrahydroisoquinoline (158 mg, 0.64 mmol) followed by catalytic 12M HCl. After heating overnight at 80° C., reaction was quenched with saturated NaHCO3 (25 mL), solvent removed by rotary evaporation, aqueous layer extracted with DCM (25 mL), the organic layer was concentrated and purified by column chromatography (5-50% EtOAc in hexanes) to provide the product (100 mg, 44%) as an off-white solid. ESIMS (M+H)+=700.

reactant | N-[5-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]-2-(methyloxy)phenyl]-2,6-difluorobenzamide | 0.32 mmol, 158 mg | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=CC(=C(C2)NC(C2=C(C=CC=C2F)F)=O)OC | C25H16ClF2N5O2
reactant | 7-amino-N-trifluoroacetyl tetrahydroisoquinoline | 0.64 mmol, 158 mg | NC1=CCC2CCN(CC2=C1)C(C(F)(F)F)=O | C11H13F3N2O
reactant | HCl | 12M | Cl | ClH
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | 2-propanol | 2 mL | CC(C)O | C3H8O
product | 2,6-Difluoro-N-{2-(methyloxy)-5-[3-(2-{[2-(trifluoroacetyl)-1,2,3,4-tetrahydro-7-isoquinolinyl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}benzamide | 100 mg, 44% | FC1=C(C(=O)NC2=C(C=CC(=C2)C2=NN3C(C=CC=C3)=C2C2=NC(=NC=C2)NC2=CC=C3CCN(CC3=C2)C(C(F)(F)F)=O)OC)C(=CC=C1)F | C36H26F5N7O3
